US09428510B2
0.160 g (1.500 mmol) of palladium on carbon (10%) and 15.19 ml (150 mmol) of cyclohexene are added to a solution of 4.82 g (15 mmol) of tert-butyl 4-(4-methylpiperazin-1-yl)-2-nitrobenzoate in 100 ml of ethanol. The reaction mixture is heated at a temperature of 80° C. for 8 hours. The reaction mixture is filtered and then rinsed with ethanol to yield 4.2 g (yield=96%) of tert-butyl 2-amino-4-(4-methylpiperazin-1-yl)benzoate in the form of a yellow solid.

reactant | cyclohexene | 150 mmol, 15.19 ml | C1=CCCCC1 | C6H10
reactant | tert-butyl 4-(4-methylpiperazin-1-yl)-2-nitrobenzoate | 15 mmol, 4.82 g | CN1CCN(CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C16H23N3O4
catalyst | palladium on carbon | 1.500 mmol, 0.160 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | tert-butyl 2-amino-4-(4-methylpiperazin-1-yl)benzoate | 4.2 g, yield=96% | NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)N1CCN(CC1)C | C16H25N3O2
